US06323235B1
Methyl (2-(3-acetoxypropyl)-3-(2-hydroxyethyl)benzofuran-7-yloxy)acetate
Methyl (2-(3-acetoxy-1-propenyl)-3-(2-tetrahydropyranyloxyethyl)benzofuran-7-yloxy)acetate (199 mg) was dissolved in methanol (4 ml) and 5% Pd/C (28 mg) was added to the solution, followed by stirring the solution at room temperature for 1.5 hours under hydrogen atmosphere. After filtering the reaction solution through Celite, the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography (solvent: hexane/ethyl acetate=1/1)using silica gel to obtain the desired compound (80 mg, yield: 50%).

reactant | Methyl (2-(3-acetoxy-1-propenyl)-3-(2-tetrahydropyranyloxyethyl)benzofuran-7-yloxy)acetate | 199 mg | C(C)(=O)OCC=CC=1OC2=C(C1CCOC1OCCCC1)C=CC=C2OCC(=O)OC | C23H28O8
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | methanol | 4 ml | CO | CH4O
catalyst | Pd/C | 28 mg | [Pd] | Pd
product | Methyl (2-(3-acetoxypropyl)-3-(2-hydroxyethyl)benzofuran-7-yloxy)acetate | 80 mg, yield: 50% | C(C)(=O)OCCCC=1OC2=C(C1CCO)C=CC=C2OCC(=O)OC | C18H22O7
